US08207147B2
4-{[Methyl-(3-pyridin-4-yl-[1,2,4]oxadiazol-5-ylmethyl)amino]methyl}-piperidine-1-carboxylic acid 2,2,2-trichloroethyl ester
The tert-butoxycarbonyl group of 4-{[methyl(3-pyridin-4-yl-[1,2,4]oxadiazol-5-ylmethyl)amino]methyl}piperidine-1-carboxylic acid tert-butyl ester (Example 124) was removed using the procedure described in Example 51 to afford methylpiperidin-4-ylmethyl-(3 pyridin yl-[1,2,4]oxadiazol-5-ylmethyl)amine: RT=0.75 min; m/z (ES+)=288.0 [M+H]+. Derivatisation of methylpiperidin-4-ylmethyl-(3-pyridin-4-yl-[1,2,4]oxadiazol-5-ylmethyl)amine with 2,2,2-trichloroethylchloroformate, using the procedure described for Example 52, afforded the title compound: RT=3.51 min; m/z (ES+)=461.9 [M+H]+.

reactant | methylpiperidin-4-ylmethyl-(3-pyridin-4-yl-[1,2,4]oxadiazol-5-ylmethyl)amine | CN(CC1=NC(=NO1)C1=CC=NC=C1)CC1CCNCC1 | C15H21N5O
reactant | 2,2,2-trichloroethylchloroformate | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
product | 4-{[Methyl-(3-pyridin-4-yl-[1,2,4]oxadiazol-5-ylmethyl)amino]methyl}-piperidine-1-carboxylic acid 2,2,2-trichloroethyl ester | ClC(COC(=O)N1CCC(CC1)CN(CC1=NC(=NO1)C1=CC=NC=C1)C)(Cl)Cl | C18H22Cl3N5O3
